US04824845
Example 1: Production of 2-cyclopropylamino-4-heptanoylamino-1,3,5-triazine
To a suspension of 33.2 g of 2,4-diamino-6-cyclopropylamino-1,3,5-triazine and 30.3 g of triethylamine in 800 ml of tetrahydrofuran are slowly added dropwise, at 60° C., 50.9 g of oenanthic acid anhydride dissolved in 100 ml of tetrahydrofuran. The reaction mixture is subsequently stirred overnight at 60° C.; active charcoal is then added and the mixture is filtered hot. The filtrate is concentrated by evaporation, and isopropanol is added. The product is obtained, after filtration and drying, in the form of a white crystalline powder having a melting point of 195°-197° C.

reactant | 2,4-diamino-6-cyclopropylamino-1,3,5-triazine | 33.2 g | NC1=NC(=NC(=N1)N)NC1CC1 | C6H10N6
reactant | triethylamine | 30.3 g | C(C)N(CC)CC | C6H15N
reactant | charcoal | C | CH4
reactant | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-cyclopropylamino-4-heptanoylamino-1,3,5-triazine | C1(CC1)NC1=NC=NC(=N1)NC(CCCCCC)=O | C13H21N5O
